US07381737B2
To a solution of 5-[(5S,9R)-9-(4-Cyanophenyl)-3-(3,5-dichlorophenyl)-1-methyl-2,4-dioxo-1,3,7-triazaspiro[4.4]non-7-ylmethyl]-thiophene-3-carboxylic acid methyl ester hydrochloride salt (20.00 g, 33.00 mmol) and 1,2-propanediol (5.0 g) in tetrahydrofuran (200 mL) and water (100 mL) was added slowly potassium hydroxide solution (0.85M, 116 mL) at 8-12° C. in 0.5 hours. The resulting biphasic mixture was stirred at 8-12° C. for 20-27 hours until the reaction was complete. The reaction mixture was washed with n-heptane (200 mL). The pH was adjusted to 6.5 with addition of water (100 mL) and acetic acid (2.5 mL). Tetrahydrofuran was removed under reduced pressure at internal temperature <40° C. The pH was adjusted to 4.5 with addition of isopropyl acetate (400 mL) and acetic acid (11 mL). After 10 minutes of stirring, the aqueous layer was separated and was extracted with isopropylacetate (200 mL). The organic layers were combined, washed with water (100 mL) and concentrated under reduced pressure to a volume of 190 mL at bath temperature <40° C. Crystallization occurred during concentration. The crystal slurry was stirred at 20-25° C. for 16 hours and was then filtered. The cake was washed with cold isopropylacetate (15 mL×3) and dried in vacuum at 35-40° C. to a constant weight. 5-[(5S,9R)-9-(4-Cyanophenyl)-3-(3,5-dichlorophenyl)-1-methyl-2,4-dioxo-1,3,7-triazaspiro[4.4]non-7-ylmethyl]-thiophene-3-carboxylic acid (14.35 g, 78.3%) was obtained as white and sandy crystalline solid. mp=209-230° C. 1H NMR (Acetone-d6): 8.19 (1H, d, J=1.3 Hz), 7.76 (2H, d, J=8.4 Hz), 7.49 (2H, d, J=8.2 Hz), 7.43 (1H, d, J=1.0 Hz), 7.41 (1H, t, J=1.9 Hz), 6.87 (2H, d, J=1.9 Hz), 4.16 (1H, dd, J1=13.9 Hz J2=0.8 Hz), 4.10 (1H, dd, J1=11.7 Hz, J2=6.2 Hz), 3.99 (1H, d, J=14.0 Hz), 3.48(1H, d, J=10.6 Hz), 3.47 (1H, dd, J1=9.6 Hz, J2=6.2 Hz), 3.25 (3H, s), 3.24 (1H, dd, J1=9.6 Hz, J2=11.7 Hz), 3.01 (1H, d, J=11.3 Hz). 13C NMR (Acetone-d6): 22 Carbons (172.69, 163.7, 153.98, 144.55, 142.23, 135.26, 135.09, 134.41, 133.89, 132.96, 130.33, 128.27, 126.98, 125.18, 119.07, 112.44, 74.28, 59.09, 56.45, 54.33, 50.73, 25.75). Anal. Calcd for C26H20Cl2N4O4S: C, 56.22; H, 3.62; N, 10.08; S, 5.77; Cl, 12.76. Found: C, 56.27; H, 3.20; N, 9.97; S, 5.65; Cl, 12.68.

reactant | 5-[(5S,9R)-9-(4-Cyanophenyl)-3-(3,5-dichlorophenyl)-1-methyl-2,4-dioxo-1,3,7-triazaspiro[4.4]non-7-ylmethyl]-thiophene-3-carboxylic acid methyl ester hydrochloride salt | 33.00 mmol, 20.00 g | Cl.COC(=O)C1=CSC(=C1)CN1C[C@]2(C(N(C(N2C)=O)C2=CC(=CC(=C2)Cl)Cl)=O)[C@@H](C1)C1=CC=C(C=C1)C#N
reactant | 1,2-propanediol | 5.0 g | C(C(C)O)O | C3H8O2
reactant | potassium hydroxide | 0.85M, 116 mL | [OH-].[K+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 5-[(5S,9R)-9-(4-Cyanophenyl)-3-(3,5-dichlorophenyl)-1-methyl-2,4-dioxo-1,3,7-triazaspiro[4.4]non-7-ylmethyl]-thiophene-3-carboxylic acid | 14.35 g, 78.3% | C(#N)C1=CC=C(C=C1)[C@@H]1CN(C[C@]12C(N(C(N2C)=O)C2=CC(=CC(=C2)Cl)Cl)=O)CC2=CC(=CS2)C(=O)O | C26H20Cl2N4O4S
